US07312358B2
N-({4-Chloro[(4-ethoxyphenyl)sulfonyl]anilino}acetyl)valine
Following the general method as outlined in Example 75, starting from N-fmoc-3-methyl-2-methylamino-butyric acid, methyl bromoacetate, 4-chloroaniline and 4-ethoxybenzenesulfonyl chloride, the title compound was obtained in >60% purity by LC/MS. (ESI+): 483.

reactant | N-fmoc-3-methyl-2-methylamino-butyric acid | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N(C(C(=O)O)C(C)C)C | C21H23NO4
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
reactant | 4-chloroaniline | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | 4-ethoxybenzenesulfonyl chloride | C(C)OC1=CC=C(C=C1)S(=O)(=O)Cl | C8H9ClO3S
product | N-({4-Chloro[(4-ethoxyphenyl)sulfonyl]anilino}acetyl)valine | ClC1=CC=C(N(S(=O)(=O)C2=CC=C(C=C2)OCC)CC(=O)N[C@@H](C(C)C)C(=O)O)C=C1 | C21H25ClN2O6S
